* KeysDock custom diode / TVS models for ngspice

* Generic Schottky rectifier (SM4007PL-ish, SOD-123FL, 1A 40V Schottky)
* Forward ~0.3-0.5V, low reverse leakage
.MODEL D_SCHOTTKY D(IS=1u N=1.2 RS=0.1 CJO=50p VJ=0.4 M=0.35 TT=10n BV=40 IBV=1m)

* Generic small-signal silicon diode
.MODEL D_SILICON D(IS=1f N=1.0 RS=0.5 CJO=2p VJ=0.6 M=0.33 TT=4n BV=75 IBV=1u)

* TPD4E05U06DQAR behavioral model:
* 4-channel unidirectional TVS array for USB D+/D- / high-speed data.
* Clamp ~6V, very low capacitance 0.42-0.5pF, low leakage ~10nA.
.SUBCKT TPD4E05U06 IO GND
D1 IO GND D_TVS_5V5
C1 IO GND 0.5p
.ENDS TPD4E05U06

.MODEL D_TVS_5V5 D(IS=10n N=1.0 RS=0.5 CJO=0.5p VJ=0.6 M=0.3 BV=6.0 IBV=1m)

* TPD1E10B06DPYR behavioral model:
* Single-channel unidirectional TVS for VBAT / sensitive lines.
* Vrwm 5.5V, clamp ~9V typical, low leakage.
.SUBCKT TPD1E10B06 IO GND
D1 IO GND D_TVS_5V5
C1 IO GND 15p
.ENDS TPD1E10B06

* TS24CA bidirectional TVS (behavioral)
* Datasheet indicates working voltage ~24V, clamp ~40V+. Used on VBUS path.
.SUBCKT TS24CA A B
D1 A B D_TVS_24V_BI
D2 B A D_TVS_24V_BI
.ENDS TS24CA

.MODEL D_TVS_24V_BI D(IS=10n N=1.0 RS=0.5 CJO=50p VJ=0.6 M=0.3 BV=27.0 IBV=1m)
