* TLA2518 8-channel 12-bit SAR ADC analog-front-end behavioral model
* Models input switch resistance, sample cap, and sampling timing.
* Pins: AIN, SAMP (sampling clock high=sample), DVDD, DGND, DOUT
* Output DOUT is a voltage representing the sampled input.

.SUBCKT TLA2518_AFE AIN SAMP DVDD DGND DOUT

* Input switch: Ron ~500Ω
R1 AIN SAMP_NODE 500

* Sample capacitor 12pF
C1 SAMP_NODE DGND 12p

* Sampling switch: when SAMP high, capacitor tracks AIN; when low, holds
* Modeled as a voltage-controlled conductance
G1 AIN SAMP_NODE VALUE={V(AIN,SAMP_NODE)/500 * (V(SAMP,DGND)>1.5?1:0.001)}

* Output: sampled voltage
BDOUT DOUT 0 V={V(SAMP_NODE,DGND)}

.ENDS TLA2518_AFE
