* TPS22910AYZVR behavioral model: 5.5V 2A load switch, active-low enable
* Pins: VIN, VOUT, GND, ON
* On-resistance ~60mΩ; controlled turn-on slew ~1V/µs at 3.3V; reverse-current protection

.SUBCKT TPS22910A VIN VOUT GND ON

* Active-low enable: switch on when ON < ~0.5V
BEN EN_INT 0 V=V(ON,GND)<0.6?3.3:0

* Slew-limited output voltage (simple RC representation)
R_SLEW EN_INT VOUT_CTRL 1k
C_SLEW VOUT_CTRL GND 300p

* On-state: voltage-controlled resistor between VIN and VOUT
* Uses a VCCS with parallel high resistance for off-state; limited to 2A
GOUT VOUT VIN VALUE={(V(VOUT,VIN)/60m < -2 ? -2 : (V(VOUT,VIN)/60m > 2 ? 2 : V(VOUT,VIN)/60m)) * (V(VOUT_CTRL,GND)>1.0?1:0)}
R_OFF VIN VOUT 1G

* Body diode / output clamp to GND (prevents negative output when off)
DCLAMP GND VOUT D_SW_CLAMP

* Reverse current protection: disable switch if VOUT > VIN + 44mV
BREV REV_FLAG 0 V=V(VOUT,GND)>V(VIN,GND)+0.044?0:3.3

.ENDS TPS22910A

.MODEL D_SW_CLAMP D(IS=1u N=1.0 RS=0.1 CJO=10p VJ=0.3 M=0.3 BV=6 IBV=1m)
