* XL-6028RGBW-WS2812B behavioral current-load model
* Each LED has 100nF decoupling and draws ~18-60mA depending on color/brightness.
* Full white (R+G+B+W max) ~60mA per LED typical.
* Current is zero below ~2V LED forward threshold (smooth transition).

* Single LED model with data passthrough
.SUBCKT WS2812B VCC GND DIN DOUT PARAMS: ICC=18m
C1 VCC GND 100n
GLED VCC GND VALUE={ICC * ((V(VCC,GND)-2.0)/0.2 < 0 ? 0 : ((V(VCC,GND)-2.0)/0.2 > 1 ? 1 : (V(VCC,GND)-2.0)/0.2))}
BDOUT DOUT 0 V=V(DIN,GND)
.ENDS WS2812B

* 82-LED chain equivalent for power simulations
.SUBCKT LED_CHAIN_82 VCC GND PARAMS: ICC=18m
Ceq VCC GND 8.2u
Gchain VCC GND VALUE={82*ICC * ((V(VCC,GND)-2.0)/0.2 < 0 ? 0 : ((V(VCC,GND)-2.0)/0.2 > 1 ? 1 : (V(VCC,GND)-2.0)/0.2))}
.ENDS LED_CHAIN_82
