* XL4067TS 16:1 analog multiplexer behavioral model
* VCC = +3.3V; Ron ~200Ω; Cch ~5pF; Cout ~20pF
* Pins: COM, S1..S16, A0, A1, A2, A3, E#, VCC, GND
* A0 = pin 11 (LSB), A3 = pin 8 (MSB), E# active low enable

.SUBCKT XL4067TS_CHAN IN OUT CTRL VCC GND
R1 IN OUT 200
C1 IN GND 5p
C2 OUT GND 1p
BCTRL CTRL_INT 0 V=V(CTRL,GND)>1.5?3.3:0
G1 OUT GND VALUE={V(IN,OUT)/200 * (V(CTRL_INT,GND)>1.5?1:0)}
.ENDS XL4067TS_CHAN

.SUBCKT XL4067TS COM S1 S2 S3 S4 S5 S6 S7 S8 S9 S10 S11 S12 S13 S14 S15 S16 A0 A1 A2 A3 EB VCC GND

* Decode address
BADDR ADDR 0 V=V(A0,GND)>1.65?1:0 + 2*(V(A1,GND)>1.65?1:0) + 4*(V(A2,GND)>1.65?1:0) + 8*(V(A3,GND)>1.65?1:0)
BEN EN 0 V=V(EB,GND)<1.0?3.3:0

X1  S1  COM CH1  VCC GND XL4067TS_CHAN
X2  S2  COM CH2  VCC GND XL4067TS_CHAN
X3  S3  COM CH3  VCC GND XL4067TS_CHAN
X4  S4  COM CH4  VCC GND XL4067TS_CHAN
X5  S5  COM CH5  VCC GND XL4067TS_CHAN
X6  S6  COM CH6  VCC GND XL4067TS_CHAN
X7  S7  COM CH7  VCC GND XL4067TS_CHAN
X8  S8  COM CH8  VCC GND XL4067TS_CHAN
X9  S9  COM CH9  VCC GND XL4067TS_CHAN
X10 S10 COM CH10 VCC GND XL4067TS_CHAN
X11 S11 COM CH11 VCC GND XL4067TS_CHAN
X12 S12 COM CH12 VCC GND XL4067TS_CHAN
X13 S13 COM CH13 VCC GND XL4067TS_CHAN
X14 S14 COM CH14 VCC GND XL4067TS_CHAN
X15 S15 COM CH15 VCC GND XL4067TS_CHAN
X16 S16 COM CH16 VCC GND XL4067TS_CHAN

* Decode control for each channel
BCH1 CH1 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=0 && V(ADDR,GND)<1)?3.3:0
BCH2 CH2 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=1 && V(ADDR,GND)<2)?3.3:0
BCH3 CH3 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=2 && V(ADDR,GND)<3)?3.3:0
BCH4 CH4 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=3 && V(ADDR,GND)<4)?3.3:0
BCH5 CH5 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=4 && V(ADDR,GND)<5)?3.3:0
BCH6 CH6 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=5 && V(ADDR,GND)<6)?3.3:0
BCH7 CH7 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=6 && V(ADDR,GND)<7)?3.3:0
BCH8 CH8 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=7 && V(ADDR,GND)<8)?3.3:0
BCH9 CH9 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=8 && V(ADDR,GND)<9)?3.3:0
BCH10 CH10 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=9 && V(ADDR,GND)<10)?3.3:0
BCH11 CH11 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=10 && V(ADDR,GND)<11)?3.3:0
BCH12 CH12 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=11 && V(ADDR,GND)<12)?3.3:0
BCH13 CH13 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=12 && V(ADDR,GND)<13)?3.3:0
BCH14 CH14 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=13 && V(ADDR,GND)<14)?3.3:0
BCH15 CH15 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=14 && V(ADDR,GND)<15)?3.3:0
BCH16 CH16 0 V=(V(EN,GND)>0.5 && V(ADDR,GND)>=15 && V(ADDR,GND)<16)?3.3:0

* Output capacitance to ground
COUT COM GND 20p

.ENDS XL4067TS
