*==============================================================================
* Passive Components Library for KeysDock PCB Simulation
* Includes realistic parasitic models for PCB-level analysis
*==============================================================================

*------------------------------------------------------------------------------
* 0402 Ceramic Capacitor — X7R, 100nF, 16V
* With realistic ESR and ESL for PDN analysis
* Parameters: C=100nF, ESR=30mΩ, ESL=0.3nH, Rleak=10GΩ
*------------------------------------------------------------------------------
.subckt CAP_0402_100NF 1 2
.param C_nom = 100nF
.param ESR = 30m
.param ESL = 0.3n
.param Rleak = 10G
C1  1  10  {C_nom}
R1  10 11  {ESR}
L1  11 2   {ESL}
Rleak 1 2  {Rleak}
.ends CAP_0402_100NF

*------------------------------------------------------------------------------
* 0603 Ceramic Capacitor — X7R, 1µF, 10V
* For decoupling and bypass applications
* Parameters: C=1µF, ESR=10mΩ, ESL=0.5nH, Rleak=5GΩ
*------------------------------------------------------------------------------
.subckt CAP_0603_1UF 1 2
.param C_nom = 1uF
.param ESR = 10m
.param ESL = 0.5n
.param Rleak = 5G
C1  1  10  {C_nom}
R1  10 11  {ESR}
L1  11 2   {ESL}
Rleak 1 2  {Rleak}
.ends CAP_0603_1UF

*------------------------------------------------------------------------------
* 0603 Ceramic Capacitor — X7R, 10µF, 10V
* For bulk decoupling
* Parameters: C=10µF, ESR=5mΩ, ESL=0.8nH, Rleak=1GΩ
*------------------------------------------------------------------------------
.subckt CAP_0603_10UF 1 2
.param C_nom = 10uF
.param ESR = 5m
.param ESL = 0.8n
.param Rleak = 1G
C1  1  10  {C_nom}
R1  10 11  {ESR}
L1  11 2   {ESL}
Rleak 1 2  {Rleak}
.ends CAP_0603_10UF

*------------------------------------------------------------------------------
* 0402 Resistor — Generic ±1%
* Parameters: R_nom, parasitic L and C
*------------------------------------------------------------------------------
.subckt RES_0402 1 2
.param R_nom = 1k
.param L_par = 0.2nH
.param C_par = 0.05pF
R1  1  10 {R_nom}
L1  10 2  {L_par}
Cpar 1  2  {C_par}
.ends RES_0402

*------------------------------------------------------------------------------
* Ferrite Bead — Simplified Model (e.g., BLM18 series)
* Rdc=0.15Ω, Z@100MHz=120Ω
*------------------------------------------------------------------------------
.subckt FERRITE_BEAD_0603 1 2
.param Rdc = 0.15
.param Lbead = 0.5u
.param Cpar = 0.2pF
.param Rpar = 120
Rdc   1   10  {Rdc}
Lbead 10  11  {Lbead}
Rpar  10  11  {Rpar}
Cpar  1   2   {Cpar}
.ends FERRITE_BEAD_0603

*------------------------------------------------------------------------------
* PCB Trace Model — 1 cm Microstrip (simplified RLC)
* Assumes 4-layer board, ~0.15mm dielectric, 50Ω impedance
* Parameters per cm: R=0.05Ω, L=3.5nH, C=1.1pF
*------------------------------------------------------------------------------
.subckt TRACE_1CM 1 2
.param R = 0.05
.param L = 3.5nH
.param C = 1.1pF
R1  1  10 {R}
L1  10 2  {L}
C1  10 0  {C}
C2  2  0  {C/2}
.ends TRACE_1CM

*------------------------------------------------------------------------------
* PCB Trace Model — 10 cm Microstrip
* For inter-board connections (controller → typeboard, ~10cm)
*------------------------------------------------------------------------------
.subckt TRACE_10CM 1 2
.param R = 0.5
.param L = 35nH
.param C = 11pF
R1  1  10 {R}
L1  10 2  {L}
C1  10 0  {C/2}
C2  2  0  {C/2}
.ends TRACE_10CM

*==============================================================================
* Battery Model — Li-Ion 1S (3.0V ~ 4.2V)
* Simplified: ideal voltage source + internal resistance
*==============================================================================
.subckt BAT_LIION_1S PLUS MINUS
.param V_nom = 3.7
.param R_int = 0.15       ; internal resistance (aged cell ~150mΩ)
.param C_eq = 1000F        ; equivalent capacitance (huge, for DC)

* Thevenin equivalent with RC for transient
V_ocv  N_OCV  MINUS DC {V_nom}
R_ser  N_OCV  PLUS  {R_int}

.ends BAT_LIION_1S

*==============================================================================
* USB VBUS Source — 5V ±5%, with cable resistance
*==============================================================================
.subckt USB_VBUS VBUS GND
.param V_usb = 5.0
.param R_cable = 0.3     ; cable + connector resistance
.param L_cable = 200nH   ; cable inductance

V_src N_src GND DC {V_usb}
R_cbl N_src N_cbl {R_cable}
L_cbl N_cbl VBUS {L_cable}

.ends USB_VBUS
